data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Clc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1Cl", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(Cl)c2Cl)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(Cl)c2Cl)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(Cl)c1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(Cl)c1Cl", "products": "O=C1CCN2C[C@H](OCc3cccc(Cl)c3Cl)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(Cl)cc1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)cc1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)cc1Cl)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(Cl)cc2Cl)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(Cl)cc2Cl)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(Cl)cc2Cl)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(Cl)cc2Cl)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(Cl)cc2Cl)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(Cl)cc2Cl)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccc(Cl)cc2Cl)O1.[Rh]"}]}
{"conditions": [], "steps": [{"reactants": "ON[C@@H]1C[C@H](CF)C[C@H]2CC=CC[C@H]21.C=O", "products": "[O-]C[NH+](O)[C@@H]1C[C@H](CF)C[C@H]2CC=CC[C@H]21"}, {"reactants": "[O-]C[NH+](O)[C@@H]1C[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "OCN(O)[C@@H]1C[C@H](CF)C[C@H]2CC=CC[C@H]21"}, {"reactants": "OCN(O)[C@@H]1C[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "C=[N+](O)[C@@H]1C[C@H](CF)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C[C@H](CF)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "FC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccc(F)cc1)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(F)cc1)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(F)cc1)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccc(F)cc1)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccc(F)cc1)C2(C)C", "products": "C[C+]1C2(c3ccc(F)cc3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccc(F)cc3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccc(F)cc2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(F)cc2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(F)cc2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(F)cc2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccc(F)cc2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccc(F)cc2)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccc(F)cc3)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccc(F)cc3)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccc(F)cc3)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(C)c(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "COc1ccc(C)[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "COc1ccc(C)[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "COc1ccc(C)c2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1ccc(C)c2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1ccc(C)c2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(Cl)C(C)(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OC(Cl)C(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OC(Cl)C(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(Cl)C2(C)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(Cl)C2(C)O3)cc1", "products": "CC12OC(OC1Cl)C1C(=O)C12"}, {"reactants": "CC12OC(OC1Cl)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C3OC(Cl)C(C)(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(Cl)C(C)(O3)C21.CO", "products": "COC(=O)C1CC2(C)OC1OC2Cl"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cccc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "COc1ccc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "COc1ccc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "COc1cccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1cccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1cccc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
